US07342115B2
To a solution of 2,6-dichloro-pyridin-4-yl)-pyrrolidin-1-yl-methanone (2.0 g, 8.2 mmol, prepared from commercially available 2,6-dichloro-isonicotinic acid) in THF (50 mL) is added slowly LDA (4 mL, 2M in heptane/THF/ethylbenzene), maintaining an internal temperature below −65° C. The solution is stirred at −78° C. for 1 hour, then treated dropwise ethyl formate (640 mg, 8.6 mmol), again maintaining an internal temperature below −65° C. The resulting mixture is gradually warmed to room temperature and stirred overnight. The mixture is quenched with saturated NH4Cl, extracted with ether and the combined extracts are washed with brine, dried over sodium sulfate and concentrated to give crude 2,6-dichloro-4-(pyrrolidine-1-carbonyl)-pyridine-3-carbaldehyde, which is used directly for the next step.

reactant | pyrrolidin-1-yl-methanone | N1(CCCC1)C=O | C5H9NO
reactant | 2,6-dichloro-isonicotinic acid | ClC=1C=C(C(=O)O)C=C(N1)Cl | C6H3Cl2NO2
reactant | LDA | 2M, 4 mL | [Li+].CC(C)[N-]C(C)C
reactant | ethyl formate | 8.6 mmol, 640 mg | C(=O)OCC | C3H6O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,6-dichloro-4-(pyrrolidine-1-carbonyl)-pyridine-3-carbaldehyde | ClC1=NC(=CC(=C1C=O)C(=O)N1CCCC1)Cl | C11H10Cl2N2O2
